* ==========================================================================
* @part: generic op-amp
* @family: opamps
* @source: ngspice
* @url: https://ngspice.sourceforge.io/modelparams.html
* @retrieved: 2026-09-24
* @licence: none stated
* @added-by: nav
* ==========================================================================
* generic OpAmp model
* gain, phase, offset, limits to power supply
.subckt genopa1 in+ in- vcc vee out params: POLE=20 GAIN=20k VOFF=10m ROUT=10
Voff in+ inoff dc {VOFF}
G10 0 int inoff in- 100u
R1 int 0 {GAIN/100u}
C1 int 0 {1/(6.28*(GAIN/100u)*POLE)}
Eout 2 0 int 0 1
Rout 2 out {ROUT}
Elow 3 0 vee 0 1
Ehigh 8 0 vcc 0 1
Dlow 3 int Dlimit
Dhigh int 8 Dlimit
.model Dlimit D N=0.01
.ends
