* ==========================================================================
* @part: 4N27
* @family: optocouplers
* @source: LTspice
* @url: LTspice lib/sub (local LTspice install, copied by scripts/fetch_vendor.sh)
* @origin-file: ltspice-lib/sub/4N27.sub
* @retrieved: 2026-09-24
* @licence: notice: "Copyright © Linear Technology Corp. 1998, 1999, 2000. All rights reserved."
* @added-by: nav
* @pins: 4N27: 1 2 3 4 5
* Definitions below are copied verbatim from the origin file.
* ==========================================================================

* ---- original file header ----
* Copyright © Linear Technology Corp. 1998, 1999, 2000.  All rights reserved.
*
* ---- end of original file header ----

.subckt 4N27 1 2 3 4 5
R1 N003 2 2
D1 1 N003 LD
G1 3 5 N003 2 .582m
C1 1 2 18p
Q1 3 5 4 [4] NP
.model LD D(Is=1e-20 Cjo=18p)
.model NP NPN(Bf=610 Vaf=140 Ikf=15m Rc=1 Cjc=19p Cje=7p Cjs=7p C2=1e-15)
.ends 4N27
