* ==========================================================================
* @part: generic phototransistor optocoupler; PC817, 4N35, CNY17 presets
* @family: optocouplers
* @source: Repo
* @url: (written for this repo)
* @retrieved: 2026-09-24
* @licence: MIT
* @added-by: nav
* @pins: OPTO_GEN: A K C E
* @notes: teaching-grade; fixed CTR (no CTR-vs-If or temperature curve)
* ==========================================================================
* Written for this repository because the LTspice/Bordodynov PC817 and CNY17
* models need an Igain parameter from the LTspice symbol and do not load
* stand-alone in either simulator.
*
* How it works: Vsense measures the LED current; F1 injects CTR/BF of it into
* the base of a high-gain NPN, so Ic = CTR * If in the active region and the
* transistor saturates normally when the load limits Ic.
*   LED:  Vf ~ 1.2 V @ 10 mA (IR LED)
*   CTR:  collector current / LED current (1.0 = 100 %)
* Usage:  X1 a k c e OPTO_GEN CTR=0.5      (both simulators)
*         X1 a k c e PC817_GEN
.subckt OPTO_GEN A K C E params: CTR=1
Vsense A a1 0
D1 a1 K DLED_OPTO
C1 A K 18p
F1 0 b Vsense {CTR/500}
Rbe b E 100Meg
Q1 C b E QPHOTO_OPTO
.model DLED_OPTO D(Is=8e-13 N=2 Rs=1 Cjo=18p Bv=6 Ibv=10u)
.model QPHOTO_OPTO NPN(Bf=500 Vaf=100 Ikf=10 Rc=1 Cjc=10p Cje=7p Tf=5n Tr=1u)
.ends OPTO_GEN

* PC817: CTR 50-600 % over ranks A-D; 130 % is a mid-range (rank B/C) value
.subckt PC817_GEN A K C E
X1 A K C E OPTO_GEN CTR=1.3
.ends PC817_GEN

* 4N35: CTR >= 100 % @ If = 10 mA (datasheet minimum)
.subckt 4N35_GEN A K C E
X1 A K C E OPTO_GEN CTR=1.0
.ends 4N35_GEN

* CNY17-2: CTR 63-125 % @ If = 10 mA
.subckt CNY17_GEN A K C E
X1 A K C E OPTO_GEN CTR=0.9
.ends CNY17_GEN
