* ==========================================================================
* @part: ideal switch, 5 V relay, 16 MHz crystal, 10:1 transformer
* @family: passive
* @source: Repo
* @url: (written for this repo)
* @retrieved: 2026-09-24
* @licence: MIT
* @added-by: nav
* ==========================================================================
* ============================================================================
* passive/generic_passive_repo.lib  --  flag: BOTH (native ngspice)  licence: MIT
* ----------------------------------------------------------------------------
* Written for this repository. Deliberately avoids the LTspice-only instance
* parameters Rser/Rpar/Cpar/Lser so ngspice parses it natively; parasitics are
* explicit R/L/C elements instead.
* ============================================================================

* Voltage-controlled ideal switch. SW (Vt/Vh/Ron/Roff) exists in both
* simulators; keep Vh positive. On above Vt+Vh, off below Vt-Vh.
.model SW_IDEAL SW(Ron=0.1 Roff=100Meg Vt=2.5 Vh=0.1)

* 5 V SPST relay: coil 70 ohm / 50 mH, pull-in ~3.5 V, drop-out ~1.5 V
* Pins: C+ C- COM NO
.subckt RELAY_SPST_5V cp cn com no
Lcoil cp n1 50m
Rcoil n1 cn 70
S1 com no cp cn SW_RLY
.model SW_RLY SW(Ron=0.05 Roff=1G Vt=2.5 Vh=1)
.ends RELAY_SPST_5V

* 16 MHz fundamental crystal, Butterworth-Van Dyke equivalent:
*   Lm=7mH, Cm=14.1fF, Rm=20 ohm, C0=5pF   -> series resonance ~16.0 MHz
* Pins: 1 2
.subckt XTAL_16M 1 2
Lm 1 n1 7m
Cm n1 n2 14.1f
Rm n2 2 20
C0 1 2 5p
.ends XTAL_16M

* 10:1 voltage-ratio transformer (Lp/Ls = 100), k=0.999.
* Winding resistances are explicit resistors (not LTspice Rser=) so the file
* stays native ngspice. They are also required by LTspice: an ideal inductor
* driven directly by a voltage source is rejected as an over-defined matrix.
* The 1G resistor gives the secondary a DC path to the primary side,
* which ngspice needs when the secondary is otherwise floating.
* Pins: P1 P2 S1 S2   (dots on P1 and S1)
.subckt XFMR_10TO1 p1 p2 s1 s2
Rwp p1 np 0.5
Lp np p2 100m
Rws s1 ns 5m
Ls ns s2 1m
K1 Lp Ls 0.999
Rdc s2 p2 1G
.ends XFMR_10TO1
